Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Mucositis
 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
Ms. ___ is a ___ female with history of stage II 
ER/PR positive, HER2 negative node positive right breast cancer 
on Doxorubicin/Cychlophosphamide every 2 weeks who presents with 
mucositis.  
 Patient reports onset of several oral mucosal pain this 
morning. Her last chemotherapy was on ___. She states that 
she has been suffering from insomnia for the past 3 days. Today 
she started to feel pain in her lips and oral mucosa and has had 
difficulty with PO liquids due to the pain. Also lips are very 
dry and painful.  
 On arrival to the ED, initial vitals were 97.8 102 123/86 14 
100% RA. Labs were unremarkable. Patient was given viscous 
lidocaine, morphine 4mg IV, and magic mouthwash. Vitals prior to 
transfer were 98 88 ___ 99% RA.  
 On arrival to the floor, she reports severe lip pain and 
difficulty swallowing. She denies fevers/chills, headache, 
dizziness/lightheadedness, vision changes, weakness/numbness, 
shortness of breath, cough, chest pain, palpitations, abdominal 
pain, nausea/vomiting, diarrhea, and dysuria.  
 
 
Past Medical History:
PAST ONCOLOGIC HISTORY:  
 ___- noted right breast Mass  
 ___ breast imaging showed a 2.1 x 2.4 x 1.6 cm 
mass in the right axillary tail as well as a 1.4 x 0.7 cm right 
axillary node  
 ___ breast mass biopsy showed invasive ductal 
carcinoma, grade 2, measuring at least 1.2 cm, with focal DCIS 
of intermediate high nuclear grade, solid type. Perineural 
invasion was present. There was no lymphovascular invasion. This 
was felt to represent a primary breast carcinoma rather than a 
lymph node metastasis. The invasive carcinoma was diffusely 
strongly positive for estrogen receptor (greater than 95%), 
progesterone receptor positive (40%, weak variable staining), 
and HER-2/neu +1 (negative); the right breast axillary node 
showed invasive carcinoma with both ductal and lobular features, 
grade 2, without an in situ component. Lymphatic/vascular 
invasion was present. The specimen showed a possible lymph node 
capsule but no lymph node tissue. This suggested a lymph node 
that was completely replaced by tumor however the radiologist 
recommended correlation to exclude the possibility that this 
represents a second primary tumor and confirmed that this is a 
lymph node. This showed similar immunohistochemical staining.  
 ___- bone scan without evidence of metastatic disease  
 ___- CT C/A/P showed no evidence of disease in chest; 
findings suspicious for bilateral hydrosalpinx were noted on 
pelvic CT and dedicated pelvic ultrasound was recommended; 
pelvic u/s negative- radiologist suspects they were seeing 
unopacified loops of small bowel  
 ___- breast MRI showed known right UOQ cancer abutting 
chest wall, not involving skin; UIQ with 1.5 cm non mass 
enhancement; prominent right axillary nodes; UIQ of left breast 
with 1 cm area of non mass enhancement; add'l eval recommended 
for ipsilateral (right) UIQ lesion and contralateral (left) UIQ 
lesion; neither seen on u/s; biopsies ultimately performed 
___ of both and both were benign  
 ___ - C1 D1 Doxorubicin/Cychlophosphamide  
 ___ - C2 D1 Doxorubicin/Cychlophosphamide  
 
 PAST MEDICAL HISTORY:  
 - s/p colposcopy cervix w/ loop conization  
 - s/p appendectomy  
 
Social History:
___
Family History:
 FAMILY HISTORY: Paternal male second cousin with breast cancer. 
 
 
Physical Exam:
 ADMISSION PHYSICAL EXAM:  
 VS: Temp 98.2, BP 110/70, HR 84, RR 17, O2 sat 99% RA.  
 GENERAL: Pleasant woman, in no distress, lying in bed 
comfortably.  
 HEENT: Anicteric, PERLL, EOMI. Multiple white plaques on 
tongue, buccal mucosa, and oropharynx. Dry and cracked lips.  
 CARDIAC: RRR, normal s1/s2, no m/r/g.  
 LUNG: Appears in no respiratory distress, clear to auscultation 
 
 bilaterally, no crackles, wheezes, or rhonchi.  
 ABD: Normal bowel sounds, soft, nontender, nondistended, no  
 hepatomegaly, no splenomegaly.  
 EXT: Warm, well perfused, no lower extremity edema, erythema or 
 
 tenderness.  
 NEURO: A&Ox3, CN II-XII intact, strength full throughout.  
 SKIN: No significant rashes.  

DISCHARGE PHYSICAL EXAM
98.1 104 / ___ 
GENERAL: Pleasant woman, in no acute distress
HEENT: Multiple white plaques on tongue, buccal mucosa, and 
oropharynx. 
CARDIAC: RRR, no murmurs  
LUNG: Clear to auscultation bilaterally  
ABD: Soft, non-tender, non-distended, positive bowel sounds, no 
organomegally
EXT: Warm, well perfused, no lower extremity edema, erythema or  

tenderness.  
NEURO: A&Ox3

 
Pertinent Results:
___ 12:08AM BLOOD WBC-6.2 RBC-4.04 Hgb-12.0 Hct-34.3 MCV-85 
MCH-29.7 MCHC-35.0 RDW-12.0 RDWSD-36.4 Plt ___
___ 12:08AM BLOOD Neuts-87* Bands-0 Lymphs-11* Monos-1* 
Eos-1 Baso-0 ___ Myelos-0 AbsNeut-5.39 AbsLymp-0.68* 
AbsMono-0.06* AbsEos-0.06 AbsBaso-0.00*
___ 12:08AM BLOOD Hypochr-NORMAL Anisocy-NORMAL 
Poiklo-NORMAL Macrocy-NORMAL Microcy-NORMAL Polychr-NORMAL
___ 12:08AM BLOOD Plt Smr-NORMAL Plt ___
___ 12:08AM BLOOD Glucose-80 UreaN-7 Creat-0.6 Na-136 K-3.8 
Cl-99 HCO3-25 AnGap-16
___ 12:08AM BLOOD Calcium-9.6 Phos-4.5 Mg-2.2
___ 01:02AM URINE Color-Straw Appear-Clear Sp ___
___ 01:02AM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-NEG
___ 01:02AM URINE UCG-NEGATIVE
URINE CULTURE (Final ___:    NO GROWTH. 

 
Brief Hospital Course:
Ms. ___ is a ___ female with history of stage II 
ER/PR positive, HER2 negative node positive right breast cancer 
on Doxorubicin/Cychlophosphamide every 2 weeks who presented 
with mucositis. 

# Mucositis/Oropharyngeal Thrush: Exam and signs/symptoms were 
consistent with mucuositis and thrush. Patient also endorsed 
odynaphagia however was able to take PO. Patient was treated 
initially with nystatin then loaded with one dose fluconazole 
400 mg then discharged with 100 mg fluconazole daily for a total 
course of 14 days. Additionally, for the mucuositis, patient was 
treated with magic mouthwash maalox/diphenhydramine/lidocaine 
___ mL PO QID:PRN mouth pain and started on low dose 5 mg 
oxycodone which eased the mouth pain. 

# Insomnia: Additionally, prior to admission, patient stated 
that she had not slept for four days. States she cannot fall 
asleep. No racing thoughts, states that she reads articles on 
her phone while up. She states she has multiple productive 
activities during the day. She also notes that she previously 
had not experienced difficulty sleeping. She has a distance 
history of restless leg syndrome from which she previously took 
pramipexole. She slept well with the 25 mg trazadone. She was 
discharged with prescription for trazadone to help her with 
insomnia at home.

NOTE: Patient is on fluconazole, QTc prolonging agent, QTc 
during hospitalization was 442. LFTs ___ drawn at ___ 
___ were within normal limits. 

====================
Transitional Issues: 
====================
- Loaded 400 mg fluconazole, tx 100 mg fluconazole daily 14 days 

- Magic mouth wash + 5 mg oxycodone BID for mouth pain/mucositis
- Trazdone 25 mg nightly as needed for sleep 
- Consider pramipexole if symptoms of restless leg outpatient 
- F/u Dr ___ at ___ oncology 
- Full code 
- ___ (sister/HCP) ___ 
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Lidocaine Viscous 2% 15 mL PO QID:PRN mouth pain 
2. LORazepam 1 mg PO Q6H:PRN nausea/anxiety 
3. Maalox/Diphenhydramine/Lidocaine ___ mL PO QID:PRN mouth 
pain 
4. Prochlorperazine 10 mg PO Q6H:PRN nausea/vomiting 
5. Ondansetron 8 mg PO Q8H:PRN nausea/vomiting 
6. Dexamethasone 4 mg PO BID 
7. Multivitamins 1 TAB PO DAILY 
8. Levothyroxine Sodium 175 mcg PO DAILY 
9. Ibuprofen 400 mg PO Q8H:PRN Pain - Moderate 

 
Discharge Medications:
1.  Fluconazole 200 mg PO Q24H 
RX *fluconazole 100 mg 1 tablet(s) by mouth daily Disp #*14 
Tablet Refills:*0 
2.  OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN Pain - 
Moderate 
causes drowsiness, do not drive afterwards 
RX *oxycodone 5 mg 1 tablet(s) by mouth twice daily Disp #*14 
Tablet Refills:*0 
3.  TraZODone 25 mg PO QHS:PRN insomnia 
RX *trazodone 50 mg 0.5 (One half) tablet(s) by mouth night as 
needed Disp #*14 Tablet Refills:*0 
4.  Dexamethasone 4 mg PO BID 
Only take as prescribed by your oncologist   
5.  Ibuprofen 400 mg PO Q8H:PRN Pain - Moderate  
6.  Levothyroxine Sodium 175 mcg PO DAILY  
7.  Lidocaine Viscous 2% 15 mL PO QID:PRN mouth pain  
8.  LORazepam 1 mg PO Q6H:PRN nausea/anxiety  
9.  Maalox/Diphenhydramine/Lidocaine ___ mL PO QID:PRN mouth 
pain  
10.  Multivitamins 1 TAB PO DAILY  
11.  Ondansetron 8 mg PO Q8H:PRN nausea/vomiting  
12.  Prochlorperazine 10 mg PO Q6H:PRN nausea/vomiting  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
# Mucositis/Oropharyngeal Thrush
# Hypothyroidism  
# ER/PR positive, HER2 negative breast cancer 

 
Discharge Condition:
Activity Status: Ambulatory - Independent.
Level of Consciousness: Alert and interactive.
Mental Status: Clear and coherent.

 
Discharge Instructions:
Dear Ms. ___, 

You were admitted to the hospital because you were experiencing 
lip, mouth, and swallowing pain.  

In the hospital, you were diagnosed with mucositis and thrush.  
You were started on new medications to treat this problem.  
Lastly, you were also started on a new medication to help you 
sleep. 

When you are at home, please call your oncologist if you have 
worsening pain in your mouth or with swallowing.
 
Followup Instructions:
___